US04059434
a. Preparation of 2-(4-chloro-2-fluorophenyl)-1,4,5,6-tetrahydrocyclopentapyrazol-3(2H)-one
By substituting 4-chlorophenylhydrazine in the former procedure for 4-chloro-2-fluorophenylhydrazine, 2-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopentapyrazol-3(2H)-one was prepared, m.p. 193.5°-195°.

reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | 4-chloro-2-fluorophenylhydrazine | ClC1=CC(=C(C=C1)NN)F | C6H6ClFN2
reactant | 2-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopentapyrazol-3(2H)-one | ClC1=CC=C(C=C1)N1NC2=C(C1=O)CCC2 | C12H11ClN2O
product | 2-(4-chloro-2-fluorophenyl)-1,4,5,6-tetrahydrocyclopentapyrazol-3(2H)-one | ClC1=CC(=C(C=C1)N1NC2=C(C1=O)CCC2)F | C12H10ClFN2O
